US08304419B2
Step C: 2-(acetylamino)-4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide
A solution of 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(diacetylamino)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.047 g, 0.071 mmol) and TFA (0.5 mL, 6.5 mmol) in CH2Cl2 (1.0 mL) was stirred at RT overnight. The solution was concentrated and purified by Reverse-Phase HPLC (water:acetonitrile with 0.1% TFA) to provide the title compound (0.007 g, 21%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.88 (br. s., 1H) 11.52 (br. s., 1H) 8.81 (br. s., 1H) 7.82 (s, 1H) 7.51-7.55 (m, 2H) 7.50 (s, 1H) 7.47

reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(diacetylamino)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.071 mmol, 0.047 g | ClC=1N=C(N(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)COCC[Si](C)(C)C)N(C(C)=O)C(C)=O | C28H29Cl3FN5O5Si
reactant | TFA | 6.5 mmol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 2-(acetylamino)-4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.007 g, 21% | C(C)(=O)NC=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C20H13Cl3FN5O3
